US05354730
To a solution of 1-[3-sec-butyl-6-fluoro-2 (3H)benzothiazolon-5-yl]-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione (2.0 g) in dimethylformamide (10 g), methyl iodide (0.5 g) and potassium carbonate (1.6 g) were added, and the resultant mixture was heated at 40° to 80° C. for 3 hours. After completion of the reaction, the reaction mixture was poured into water, and the precipitated crystals were collected by filtraction, washed and dried. The residue was purified by column chromatography to give 1-[3-sec-butyl-6-fluoro-2(3H) -benzothiazolon-5-yl]-3-metyl -4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione (1.0 g ).

reactant | 1-[3-sec-butyl-6-fluoro-2 (3H)benzothiazolon-5-yl]-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione | 2.0 g | C(C)(CC)N1C(SC2=C1C=C(C(=C2)F)N2C(NC(=CC2=O)C(F)(F)F)=O)=O | C16H13F4N3O3S
reactant | methyl iodide | 0.5 g | CI | CH3I
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 10 g | CN(C=O)C | C3H7NO
product | 1-[3-sec-butyl-6-fluoro-2(3H) -benzothiazolon-5-yl]-3-metyl -4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione | 1.0 g | C(C)(CC)N1C(SC2=C1C=C(C(=C2)F)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)=O | C17H15F4N3O3S
